US04831034
To a stirred solution of 3-phenyl-1-(1-piperazinyl)-naphthalene (17.9 g) in acetonitrile (280 cc), there is added potassium carbonate (8.6 g) and then, in the course of 20 minutes, a solution of α-chloro-p-xylene (8.7 g) in acetonitrile (50 cc), at a temperature in the region of 20° C., and stirring is continued for 16 hours. The insoluble material which is formed is separated by filtration. The solution obtained is evaporated under reduced pressure (20 mm Hg; 2.7 kPa) at 40° C. The residue is dissolved in methylene chloride (35 cc) and the solution poured onto silica (1 kg) contained in a column 7.5 cm in diameter. Elution is performed with a mixture (3 liters) of methylene chloride and methanol (99:1 by volume) and the corresponding eluate is concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 50° C. The residue obtained is dissolved in acetone (250 cc). The solution is cooled to a temperature in the region of 5° C., a 2.5N solution (52 cc) of anhydrous hydrochloric acid in ethyl ether is added and stirring is maintained for approximately 4 hours. The precipitates formed is separated by filtration and washed with ethyl ether ether (3×25 cc). 1-[4-(4-Methylbenzyl)-1-piperazinyl]-3-phenylnaphthalene dihydrochloride (19 g), m.p. 252° C., is thereby obtained.

reactant | 3-phenyl-1-(1-piperazinyl)-naphthalene | 17.9 g | C1(=CC=CC=C1)C=1C=C(C2=CC=CC=C2C1)N1CCNCC1 | C20H20N2
reactant | potassium carbonate | 8.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | α-chloro-p-xylene | 8.7 g | ClCC1=CC=C(C=C1)C | C8H9Cl
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 280 cc | C(C)#N | C2H3N
solvent | acetonitrile | 50 cc | C(C)#N | C2H3N
solvent | acetone | 250 cc | CC(=O)C | C3H6O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 1-[4-(4-Methylbenzyl)-1-piperazinyl]-3-phenylnaphthalene dihydrochloride | 19 g | Cl.Cl.CC1=CC=C(CN2CCN(CC2)C2=CC(=CC3=CC=CC=C23)C2=CC=CC=C2)C=C1 | InChI=1S/C28H28N2.2ClH/c1-22-11-13-23(14-12-22)21-29-15-17-30(18-16-29)28-20-26(24-7-3-2-4-8-24)19-25-9-5-6-10-27(25)28;;/h2-14,19-20H,15-18,21H2,1H3;2*1H
